US04604480
The latter compound (6.7 g) was dissolved in 40 mL of 1:9 THF:tert-butanol and added dropwise to an ice cold solution of potassium tert-butoxide (8.44 g) in 100 mL of 1:9 THF:tert-butanol. The reaction mixture was stirred in ice for 0.5 hours and at room temperature for 0.5 hours. The reaction mixture was diluted with water (200 mL) and extracted with pentane (2×50 mL). The combined organic layer was washed with water (7×150 mL). organic layer was separated, dried with anhydrous magnesium sulfate, filtered and the solvent removed at atmospheric pressure using a Vigreaux column to give a liquid. Distillation gave 2.6 g (85% yield) of 1-vinyl cycloheptene as established by NMR and IR analyis.

reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butoxide | 8.44 g | CC(C)([O-])C.[K+]
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 1-vinyl cycloheptene | 2.6 g, 85% yield | C(=C)C1=CCCCCC1 | C9H14
